US07678788B2
3-Bromo-2-furoic acid (Intermediate Compound)
To a mixture of 3-bromo furan (51.0 g; 0.347 mol) and THF (250 ml) was added lithiumdiisopropylamide (191 ml; 0.382 mol; 2 M solution in heptane/THF/ethylbenzene) at −70° C. The mixture was stirred for 1 hour at −70° C. Solid carbondioxide (100.3 g; 2.28 mol) was added and the mixture was stirred until the carbondioxide was gone. Water (50 ml) was addded followed by aqueous hydrochloric acid (380 ml; 2M). The tetrahydrofuran was evaporated. The mixture was extracted with diethylether (3×100 ml). The combined ether phase was extracted with aqueous sodium hydroxide (3×100 ml; 2M). The aqueous phase was cooled on ice and acidified with aqueous hydrochloric acid (100 ml; 10M). The mixture was extracted with ether (3×100 ml). The combined ether phase was evaporated. Yield 36 g (54%). Mp. 118.5° C.

reactant | 3-bromo furan | 0.347 mol, 51.0 g | BrC1=COC=C1 | C4H3BrO
reactant | THF | 250 ml | C1CCOC1 | C4H8O
reactant | lithiumdiisopropylamide | 0.382 mol, 2 M, 191 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | hydrochloric acid | 2M, 380 ml | Cl | ClH
reactant | Water | 50 ml | O | H2O
product | 3-Bromo-2-furoic acid | BrC1=C(OC=C1)C(=O)O | C5H3BrO3
